US09340549B2
To a suspension of (S)-2-amino-2-(o-tolyl)acetic acid (commercially available from ACES Pharma, Princeton, N.J.) (800 mg, 4.84 mmol) in MeOH (20 mL) was added thionyl chloride (633.77 mg, 5.32 mmol) dropwise at −10° C. The resulting reaction mixture was stirred for 12 hours at reflux. After completion of the reaction (Reaction monitored by TLC, TLC system: 50% EtOAc in hexane), the reaction mixture was cooled to ambient temperature and then concentrated under reduced pressure. The residue was crystallized with MeOH and diethyl ether to afford (S)-2-methoxy-2-oxo-1-(o-tolyl)ethanaminium chloride, (1 g, 95.78%) as a white solid. 1H NMR (400 MHz, DMSO-d6): δ 8.97 (s, 3H), 7.39-7.28 (m, 4H), 5.34 (s, 1H), 3.70 (s, 3H), 2.43 (s, 3H). m/z (ESI) 180.1 (M+H)+.

reactant | (S)-2-amino-2-(o-tolyl)acetic acid | N[C@H](C(=O)O)C1=C(C=CC=C1)C | C9H11NO2
reactant | thionyl chloride | 5.32 mmol, 633.77 mg | S(=O)(Cl)Cl | Cl2OS
reactant | EtOAc | CCOC(=O)C | C4H8O2
solvent | MeOH | 20 mL | CO | CH4O
solvent | hexane | CCCCCC | C6H14
product | (S)-2-methoxy-2-oxo-1-(o-tolyl)ethanaminium chloride | 1 g, 95.78% | [Cl-].COC([C@@H]([NH3+])C1=C(C=CC=C1)C)=O | InChI=1S/C10H13NO2.ClH/c1-7-5-3-4-6-8(7)9(11)10(12)13-2;/h3-6,9H,11H2,1-2H3;1H/t9-;/m0./s1
